US04772606
The crude nitropyrimidine (25.32 g) from above was suspended in formamide (150 ml) and 90% formic acid (50 ml) and the suspension was warmed to 70° C. in a water bath. Sodium dithionite was carefully added to the warm suspension and then boiled for 15-20 minutes. The reaction mixture was diluted with hot water (300 ml), treated with charcoal and then boiled for an additonal 20-25 minutes, filtered through celite, cooled and concentrated under reduced pressure to give formamido-pyrimidine which was collected by filtration, washed with acetone, and dried under vacuum at 56° C.

reactant | nitropyrimidine | 25.32 g | [N+](=O)([O-])C1=NC=CC=N1 | C4H3N3O2
reactant | formic acid | 50 ml | C(=O)O | CH2O2
reactant | Sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | charcoal | C | CH4
solvent | formamide | 150 ml | C(=O)N | CH3NO
solvent | water | 300 ml | O | H2O
product | formamido-pyrimidine | C(=O)NC1=NC=CC=N1 | C5H5N3O
